US08058447B2
Cyclobutyl 5-cyano-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-6-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate
A solution of 345 mg (1.06 mmol) of cyclobutyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate in 30 ml of 2-propanol is mixed with 143.85 mg (1.06 mmol) of 3-amino-4,4,4-trifluorobut-2-enenitrile [preparation in analogy to K. Krespan, J. Org. Chem. 34, 42-45 (1969)] and 17.8 mg (0.16 mmol) of potassium tert-butoxide and stirred under reflux for 12 h. After cooling, the mixture is concentrated. The residue is purified on an Analogix cartridge (F12M) (mobile phase: cyclohexane/ethyl acetate 2:1). After concentration of the product fractions, the residue is crystallized from diethyl ether. 50.9 mg (10.8% of theory) of the title compound are obtained as white crystals.

reactant | cyclobutyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | 1.06 mmol, 345 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OC1CCC1)C(C)=O | C19H18O5
reactant | 3-amino-4,4,4-trifluorobut-2-enenitrile | 1.06 mmol, 143.85 mg | NC(=CC#N)C(F)(F)F | C4H3F3N2
reactant | potassium tert-butoxide | 0.16 mmol, 17.8 mg | CC(C)([O-])C.[K+]
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | Cyclobutyl 5-cyano-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-6-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C(F)(F)F)C)C(=O)OC1CCC1)C=1C=CC=C2C(C=C(OC12)C)=O | C23H19F3N2O4
